US07696223B2
c) [(7-Hydroxy-4-isobutyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-4-isobutyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (35 mg, 0.10 mmole) and glycine (146 mg, 1.95 mmole) in 0.5 M sodium methoxide/methanol (3.7 ml) was refluxed for 4 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (12 ml) and extracted three times with methyl t-butyl ether. The remaining aqueous layer was acidified to pH=3 with 1N HCl (2.5 ml). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a white solid (30 mg). 1H NMR (DMSO-d6, 200 MHz): δ=9.18 (br s, 1H), 8.15 (m, 2H), 7.62 (m, 3H), 4.02 (d, J=5.9 Hz, 2H), 3.12 (d, 2H, J=7.4 Hz), 2.41 (m, 1H), 0.93 (d, 2H, J=6.6 Hz); MS: (+) m/z 385.98 (M+1); (−) m/z 383.99 (M−1)

reactant | 7-hydroxy-4-isobutyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.10 mmole, 35 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CC(C)C)N=C(S2)C2=CC=CC=C2)O | C19H20N2O3S
reactant | glycine | 1.95 mmole, 146 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 3.7 ml | C[O-].[Na+].CO
product | [(7-Hydroxy-4-isobutyl-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 30 mg | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)CC(C)C)N=C(S2)C2=CC=CC=C2 | C19H19N3O4S
